US07425639B2
Stage 4 Preparation of Methyl 3-bromoisonicotinate hydrochloride
To a stirred suspension of 3-bromoisonicotinic acid hydrochloride (27.4 g, 0.10 mol) in ethyl acetate (250 ml) was added one drop of DMF followed by thionyl chloride (18.5 g, 0.16 mol). The mixture was heated at reflux for 1 h and allowed to cool to room temperature. The mixture was then concentrated under reduced pressure to give an off-white solid. To this was added methanol and this was refluxed for 2 hrs. The mixture was then concentrated under reduced pressure and diluted with ethyl acetate. The precipitate was collected on filter paper on a Buchner funnel. The white solid was washed with ethyl acetate and air-dried. The white solid was placed in a vacuum oven at 60° C. overnight with a nitrogen bleed. Yield: 18.5 g (71% th).

reactant | 3-bromoisonicotinic acid hydrochloride | 0.10 mol, 27.4 g | Cl.BrC1=C(C(=O)O)C=CN=C1
reactant | thionyl chloride | 0.16 mol, 18.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | Methyl 3-bromoisonicotinate hydrochloride | Cl.BrC1=C(C(=O)OC)C=CN=C1 | InChI=1S/C7H6BrNO2.ClH/c1-11-7(10)5-2-3-9-4-6(5)8;/h2-4H,1H3;1H
